US07109226B2
Synthesis of N-(Benzoxazol-2-yl)-N-3-(4-methoxyphenoxy)propyl-3-hydroxybenzylamine
N-(Benzoxazol-2-yl)-N-3-(4-methoxyphenoxy)propyl-3-tert-butyldimethylsilyloxybenzylamine (1.9 g, 3.6 mmol) was dissolved in solvent mixture of N,N-dimethylformamide/H2O (10/1) (5.0 mL). Subsequently, cesium carbonate (1.2 g, 3.6 mmol) was added thereto. The mixture was stirred for 3 hours at room temperature, followed by concentration under reduced pressure. Hydrochloric acid (1.0 mol/L) was added thereto. The resultant mixture was extracted with ethyl acetate, followed by washing the organic layer with brine, drying over anhydrous sodium sulfate, and concentration under reduced pressure. The resultant mixture was subjected to purification by silica gel chromatography (n-hexane/ethyl acetate=5/1), whereby the target compound was obtained (1.3 g, 89%).

reactant | N-(Benzoxazol-2-yl)-N-3-(4-methoxyphenoxy)propyl-3-tert-butyldimethylsilyloxybenzylamine | 3.6 mmol, 1.9 g | O1C(=NC2=C1C=CC=C2)N(CCCOC2=CC=C(C=C2)OC)CC2=CC(=CC=C2)O[Si](C)(C)C(C)(C)C | C30H38N2O4Si
reactant | cesium carbonate | 3.6 mmol, 1.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide H2O | 5.0 mL | CN(C=O)C.O
product | N-(Benzoxazol-2-yl)-N-3-(4-methoxyphenoxy)propyl-3-hydroxybenzylamine | O1C(=NC2=C1C=CC=C2)N(CCCOC2=CC=C(C=C2)OC)CC2=CC(=CC=C2)O | C24H24N2O4
